US07704989B2
The 5-(azetidin-1-yl)-2-nitropyridine obtained above is taken up in 10 ml of ethanol and hydrogenated in the presence of 65 mg of 10% palladium-on-charcoal at 30° C. under a pressure of 1 bar. The reaction mixture is filtered and the filtrate is diluted with 7N ammoniacal methanol and then concentrated to dryness at 30° C. under reduced pressure. The residue is taken up in dichloromethane, an insoluble material is removed and the residue obtained after evaporation to dryness is chromatographed on a silica cartridge, elution being carried out with a mixture of dichloromethane and 7N ammoniacal methanol (90/10). The fractions comprising the expected product are combined and concentrated to give 185 mg of 5-(azetidin-1-yl)pyridine-2-amine in the form of a red oil.

reactant | 5-(azetidin-1-yl)-2-nitropyridine | N1(CCC1)C=1C=CC(=NC1)[N+](=O)[O-] | C8H9N3O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 65 mg | [Pd] | Pd
product | 5-(azetidin-1-yl)pyridine-2-amine | 185 mg | N1(CCC1)C=1C=CC(=NC1)N | C8H11N3
